### ISSUE TITLE
Paper/VoronovskajaTypeFormula: the `answer` slot in `bezier_bernstein_operators` is scoped under `α`, `f`, `x`, so the constant function forces it to 0

### ISSUE THREAD

**Issue by Kuberwastaken** [google-deepmind/formal-conjectures#5008]
## Summary

`voronovskaja_theorem.bezier_bernstein_operators` puts its `answer( )` slot **inside** the
binders `α`, `f` and `x`, so a closed answer is one real number that must be the limit for every
admissible `α`, `f` and `x`. The constant function is admissible, and on it the Bézier–Bernstein
weights telescope so the sequence is identically `0`. By uniqueness of limits the answer is
therefore **forced to `0`** — at which point the declaration asserts that
`√n (B_{n,α} f(x) − f(x)) → 0` for *every* `C²` function, contradicting the file's own "Known
Results" note and the answer both open PRs on this file propose.

https://github.com/google-deepmind/formal-conjectures/blob/638da20efd8eeeed2993fc2550fc596dc90c1ce8/FormalConjectures/Paper/VoronovskajaTypeFormula.lean#L119-L132

```lean
@[category research open, AMS 26 40 47]
theorem voronovskaja_theorem.bezier_bernstein_operators
    (α : ℝ) (hα_pos : 0 < α) (hα : α ≠ 1)
    (f : ℝ → ℝ) (x : ℝ) (hx : x ∈ I)
    (hf : ContDiffOn ℝ 2 f I) :
    Tendsto (fun n : ℕ => Real.sqrt n * (bezierBernstein n α f x - f x)) atTop
      (𝓝 answer(sorry)) := by
  sorry
```

The file's own statement of the problem is *"determine an explicit expression for it in terms of
`f`, `x`, and `α`"* — precisely the dependence the slot cannot express.

## Proof that the answer is forced to `0`

For constant `f ≡ c`,

```
B_{n,α} f(x) = c · Σ_{k=0}^{n} (J_{n,k}(x)^α − J_{n,k+1}(x)^α) = c · (J_{n,0}(x)^α − J_{n,n+1}(x)^α)
```

by telescoping, and `J_{n,0} = 1` (binomial theorem) while `J_{n,n+1} = 0` (the index set
`Finset.Icc (n+1) n` is empty), so with `α > 0` the bracket is `1 − 0 = 1` and
`B_{n,α} f(x) = c`. The scaled difference is then identically `0`.

Machine-checked with the file's definitions copied verbatim from `main` @ `638da20e`
(`lean -DautoImplicit=false -DrelaxedAutoImplicit=false -DwarningAsError=true`, Mathlib
v4.27.0, exit 0, no `sorry`):

```lean
noncomputable def bernsteinTail (n k : ℕ) : Polynomial ℝ :=
  ∑ j ∈ Finset.Icc k n, bernsteinPolynomial ℝ n j

noncomputable def bezierBernstein (n : ℕ) (α : ℝ) (f : ℝ → ℝ) (x : ℝ) : ℝ :=
  ∑ k ∈ Finset.range (n + 1),
    f (k / n) * ((bernsteinTail n k).eval x ^ α - (bernsteinTail n (k + 1)).eval x ^ α)

theorem bernsteinTail_zero (n : ℕ) : bernsteinTail n 0 = 1 := by
  rw [bernsteinTail, ← Nat.range_succ_eq_Icc_zero]
  exact bernsteinPolynomial.sum ℝ n

theorem bernsteinTail_succ_self (n : ℕ) : bernsteinTail n (n + 1) = 0 := by
  simp [bernsteinTail]

theorem bezierBernstein_const (n : ℕ) (α c x : ℝ) (hα : α ≠ 0) :
    bezierBernstein n α (fun _ ↦ c) x = c := by
  rw [bezierBernstein, ← Finset.mul_sum, Finset.sum_range_sub']
  rw [bernsteinTail_zero, bernsteinTail_succ_self]
  simp [hα]

/-- Any closed `L : ℝ` satisfying the upstream statement for all admissible `α`, `f`, `x`
is `0`. -/
theorem answer_forced_zero (L : ℝ)
    (h : ∀ (α : ℝ), 0 < α → α ≠ 1 → ∀ (f : ℝ → ℝ) (x : ℝ), x ∈ I → ContDiffOn ℝ 2 f I →
      Tendsto (fun n : ℕ => Real.sqrt n * (bezierBernstein n α f x - f x)) atTop (𝓝 L)) :
    L = 0 := by
  have hx : (0 : ℝ) ∈ I := ⟨le_refl 0, zero_le_one⟩
  have hf : ContDiffOn ℝ 2 (fun _ : ℝ ↦ (0 : ℝ)) I := contDiffOn_const
  have key := h 2 two_pos (by norm_num) (fun _ ↦ (0 : ℝ)) 0 hx hf
  have hzero : (fun n : ℕ => Real.sqrt n * (bezierBernstein n 2 (fun _ : ℝ ↦ (0 : ℝ)) 0 - 0))
      = fun _ : ℕ => (0 : ℝ) := by
    funext n
    rw [bezierBernstein_const n 2 0 0 two_ne_zero]
    ring
  rw [hzero] at key
  exact (tendsto_nhds_unique tendsto_const_nhds key).symm
```

(`bezierBernstein_const` is also proved, independently, in #4432 — its lemma of the same name.)

## Why `answer := 0` then makes the declaration false

With `L = 0` the declaration says the limit is `0` for **every** `C²` `f`, every `x ∈ [0,1]` and
every `α > 0`, `α ≠ 1`. That contradicts:

* the file's own **Known Results** section — *"Numerical experiments indicate that for
  `α ≠ 1` the quantity `√n (B_{n,α} f(x) − f(x))` may converge to a **non-zero** limit"*;
* the answer proposed in **#4646**, `μ(α)·√(x(1−x))·f′(x)` with
  `μ(α) = ∫₀^∞ ((1−Φ(t))^α − (1−Φ(t)^α)) dt`, which is non-zero for e.g. `f = id`, `x = 1/2`,
  `α ≠ 1`;
* the answer proposed in **#4432**, which is likewise a formula in `α`, `f` and `x`.

So the declaration is either false (if a closed answer is required, as in `with_auxiliary` mode,
where the answer becomes the top-level definition `<decl>._answer`) or answerable only by
capturing the binders, i.e. trivially. Either way it does not ask the source's question.

**This is load-bearing for the two open PRs on this file.** #4646 marks the declaration
`research solved` and attaches a formal proof of the `μ(α)√(x(1−x))f′(x)` formula, but leaves
`answer(sorry)` in place — and that formula cannot be written into the slot as it stands, since
it mentions `α`, `f` and `x`. #4432 records the same formula in the docstring for the same
reason. Fixing the scoping first would let either PR say what it means. I am not disputing the
mathematics in either PR; the point is only that the current statement shape cannot hold their
answer.

## The same scoping recurs twice more in the file

* `voronovskaja_theorem.bezier_bernstein_operators.variants.eventually_smooth` binds
  `let limitFormula : (ℝ → ℝ) → ℝ → ℝ := answer(sorry)` under `(α : ℝ)`, so the formula cannot
  depend on `α` — while `μ(α)` does.
* `...variants.answer_smoothness` binds `let p : ℕ × ((ℝ → ℝ) → ℝ → ℝ) := answer(sorry)` under
  `(α : ℝ)`, likewise.
* `...variants.eventually_smooth.limit_exists` is **correctly** formed: it uses `∃ L` *inside*
  all the binders. It is not part of this report.

## Suggested fix

Make the answer a function of the quantities the source says it depends on:

```lean
    Tendsto (fun n : ℕ => Real.sqrt n * (bezierBernstein n α f x - f x)) atTop
      (𝓝 ((answer(sorry) : ℝ → (ℝ → ℝ) → ℝ → ℝ) α f x))
```

and correspondingly `(answer(sorry) : ℝ → (ℝ → ℝ) → ℝ → ℝ) α` for `variants.eventually_smooth`,
`(answer(sorry) : ℝ → ℕ × ((ℝ → ℝ) → ℝ → ℝ)) α` for `variants.answer_smoothness`. The idiom is
already used correctly elsewhere in the corpus — `OpenQuantumProblems/13.lean` writes
`IsMaxMUBCount d ((answer(sorry) : ℕ → ℕ) d)`.

I have not opened a PR for this one because #4646 and #4432 are both open against the same
declaration and either would conflict; whoever lands first should probably carry the scoping
change.

## Relation to the repository's own tooling

The `AnswerLinter` message names exactly this defect — *"Move the quantifiers outward … likely
the intention was `theorem foo : answer(sorry) ↔ ∀ᵉ (bar : ℕ) …"* — but its
`stars_with_answer_sorry_iff` check fires only on statements of the form `answer(sorry) ↔ …`,
and this one has a different shape. Compare #33, #1407, and #5005, which reports five instances
of the same defect in `GreensOpenProblems`.

## What is *not* claimed

Abel's problem is untouched: whether the limit exists for `α ≠ 1`, and what it is, is exactly as
open as before. This is a report about what the Lean declaration asserts.

## Duplicate check

Offline sweep of all 1747 issues and 3237 PRs (with per-PR file lists), matched on
`Voronovskaja`, `bezier`, `bernstein`, `VoronovskajaTypeFormula` and the path
`FormalConjectures/Paper/VoronovskajaTypeFormula.lean`. Hits: #1396 (the original formalization
request), #1444 (the implementing PR), #4526 (LaTeX), #4034/#4042 (chores), #4525 (closed), and
the two open PRs #4646 and #4432 discussed above. None reports the scoping defect. Not in
#4896, #4923 or #4927.

## Relationship to the C₅[K₄] campaign

Found while auditing `research open` declarations in the non-Wikipedia collections:

https://github.com/Kuberwastaken/c5-k4/blob/aa598efc894f2ab9628ccd8019b41318f20111ac/results/expansion/live-search-2026-08-15/other-corpora-scan.md

## AI assistance disclosure

Prepared with AI assistance (Claude, Anthropic) for the audit, the Lean witnesses and drafting.
The submitter reviewed the declaration, the proof, and the suggested repair, and takes
responsibility for the submission.

### Choose either option
- [ ] I plan on working on this issue
- [x] This issue is up for grabs: I would like to see this misformalization fixed by somebody else
